### ISSUE TITLE
HexHenselMathlib Correctness: prove quadraticHenselStep factor and bezout correctness via zpoly_congr bridge

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#3229]
## Current state

`HexHenselMathlib/Correctness.lean` carries the Mathlib-facing
correctness surface for the executable Hensel lift. The two
quadratic-step correctness theorems are still scaffolded with
`sorry`:

```lean
/-- The quadratic executable step gives a Mathlib factorization modulo `m*m`. -/
theorem quadraticHenselStep_factor_correct
    (m : Nat) (f g h s t : Hex.ZPoly)
    (hm : 0 < m)
    (hprod : Hex.ZPoly.congr (g * h) f m)
    (hbez : Hex.ZPoly.congr (s * g + t * h) 1 m)
    (hmonic : Hex.DensePoly.Monic g) :
    let r := Hex.ZPoly.quadraticHenselStep m f g h s t
    let φ := Int.castRingHom (ZMod (m * m))
    (HexPolyMathlib.toPolynomial r.g).map φ *
        (HexPolyMathlib.toPolynomial r.h).map φ =
      (HexPolyMathlib.toPolynomial f).map φ := by
  sorry

/-- The quadratic executable step updates Bezout witnesses modulo `m*m`. -/
theorem quadraticHenselStep_bezout_correct
    (m : Nat) (f g h s t : Hex.ZPoly)
    (hm : 0 < m)
    (hprod : Hex.ZPoly.congr (g * h) f m)
    (hbez : Hex.ZPoly.congr (s * g + t * h) 1 m)
    (hmonic : Hex.DensePoly.Monic g) :
    let r := Hex.ZPoly.quadraticHenselStep m f g h s t
    let φ := Int.castRingHom (ZMod (m * m))
    (HexPolyMathlib.toPolynomial r.s).map φ *
          (HexPolyMathlib.toPolynomial r.g).map φ +
        (HexPolyMathlib.toPolynomial r.t).map φ *
          (HexPolyMathlib.toPolynomial r.h).map φ =
      (1 : Polynomial (ZMod (m * m))) := by
  sorry
```

(lines 102-136.)

The executable side already provides the precise specs being
transported here:

- `Hex.ZPoly.quadraticHenselStep_factor_spec` (in
  `HexHensel/Quadratic.lean` line 2151) gives
  `Hex.ZPoly.congr (r.g * r.h) f (m * m)` from the same
  hypotheses.
- `Hex.ZPoly.quadraticHenselStep_bezout_spec` (line 2164) gives
  `Hex.ZPoly.congr (r.s * r.g + r.t * r.h) 1 (m * m)`.

Both bridges are pure transports through
`zpoly_congr_toPolynomial_map_eq` (the foundational congruence
bridge being added in a sibling issue), composed with
`Polynomial.map_mul`, `Polynomial.map_one`, and `Polynomial.map_add`.

## Deliverables

1. In `HexHenselMathlib/Correctness.lean`, replace the
   `quadraticHenselStep_factor_correct` sorry with a proof that:
   - applies `Hex.ZPoly.quadraticHenselStep_factor_spec` to obtain
     the executable `Hex.ZPoly.congr` statement at modulus `m * m`;
   - transports it through `zpoly_congr_toPolynomial_map_eq` to
     get a `Polynomial.map` equality of `(r.g * r.h)` against `f`;
   - rewrites the LHS using `HexPolyMathlib.toPolynomial_mul` and
     `Polynomial.map_mul`.
2. Replace the `quadraticHenselStep_bezout_correct` sorry with the
   analogous proof using `quadraticHenselStep_bezout_spec`,
   `Polynomial.map_add`, `Polynomial.map_mul`, and
   `Polynomial.map_one`.
3. No `axiom`, `native_decide`, `TODO`, `FIXME`, or theorem-level
   `sorry` introduced. Do not change any executable surface or any
   other theorem statement in `Correctness.lean`.

## Library placement

- File: `HexHenselMathlib/Correctness.lean` (existing scaffold).
- SPEC quote from `SPEC/Libraries/hex-hensel-mathlib.md`: the
  Mathlib-facing surface transports the executable Hensel API
  through `Polynomial.map (Int.castRingHom (ZMod m))`.
- Q1: Phase 5 implementation for `HexHenselMathlib`; transports
  the per-step quadratic Hensel correctness from the executable
  side to Mathlib polynomial form.
- Q2: Mathlib-side; pure transport, no new mathematics.
- Q3: standard Mathlib `Polynomial.map`/`map_mul`/`map_add`/`map_one`.
- Q4: depends on the foundational `zpoly_congr_toPolynomial_map_eq`
  bridge from a sibling issue (the worker for this issue should
  wait until that lands; the dependency is captured below).

## Depends on

- The sibling issue introducing
  `zpoly_congr_toPolynomial_map_eq` and
  `zpoly_congr_of_toPolynomial_map_eq` in
  `HexHenselMathlib/Correctness.lean`. Cite the depends-on issue
  number at claim time using `coordination add-dep`.

## Context

Read:

- `HexHenselMathlib/Correctness.lean` lines 102-136 for the two
  theorem statements.
- `HexHensel/Quadratic.lean` lines 2151-2176 for the executable
  `quadraticHenselStep_factor_spec` and
  `quadraticHenselStep_bezout_spec` already proved.
- `HexHenselMathlib/Correctness.lean` lines 75-94 for the
  foundational `zpoly_congr_toPolynomial_map_eq` bridge that this
  issue consumes (added by a sibling issue).
- `HexPolyMathlib/Basic.lean` lines 230-255 for
  `toPolynomial_mul`, `toPolynomial_add` and the existing
  ring-hom-style bridges.

## Verification

- `lake build HexHenselMathlib.Correctness`
- `lake build HexHenselMathlib`
- `python3 scripts/check_dag.py`
- `git diff --check`
- `rg -n '^axiom\b|native_decide|TODO|FIXME|sorry' HexHenselMathlib/Correctness.lean`
  shows the two `quadraticHenselStep_*_correct` sorries are gone
  (other sorries in the file remain — those are tracked
  separately).

## Out of scope

- The other Hensel-correctness sorries in
  `HexHenselMathlib/Correctness.lean` (`hensel_correct`,
  `hensel_extends`, `hensel_degree`, `quadraticHenselStep_monic`,
  `quadraticHenselStep_unique_mod_pow_two_mul`, `hensel_unique`,
  `multifactorLift_eq_multifactorLiftQuadratic`).
- The `HexHenselMathlib/Basic.lean` Phase 1 capstones tracked in
  #3214.
- Editing `SPEC/`, top-level `PLAN.md`, or top-level `AGENTS.md`.
depends-on: #3226

**Comment by kim-em** [comment]
Session: `6eb0bf6c-7127-4b16-87e2-faed521cd338` Branch: `agent/6eb0bf6c`

**Comment by kim-em** [comment]
Claimed by session `0daf4210-f638-441c-8059-6c190f0b0306` on branch `agent/0daf4210`

**Comment by kim-em** [comment]
Claim released — worker session `0daf4210-f638-441c-8059-6c190f0b0306` died after 1 restart attempt(s). Available for reclaim.

**Comment by kim-em** [comment]
Claimed by session `51c3b32c-d6e0-4f72-bedb-341da4a0636b` on branch `agent/51c3b32c`

**Comment by kim-em** [comment]
PR opened manually via REST after coordination create-pr hit the GraphQL rate limit: #3270
